US04760163
using ethyl 5-{3-[2-(ethoxycarbonyl)-1-cyclopenten-1-yl]ureido}-2-nitrobenzoate with sodium ethylate in ethanol there is obtained ethyl 2-nitro-5-(1,2,4,5,6,7-hexahydro-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate, m.p. 205°-208° C.,

reactant | ethyl 5-{3-[2-(ethoxycarbonyl)-1-cyclopenten-1-yl]ureido}-2-nitrobenzoate | C(C)OC(=O)C1=C(CCC1)NC(NC=1C=CC(=C(C(=O)OCC)C1)[N+](=O)[O-])=O | C18H21N3O7
reactant | sodium ethylate | CC[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | ethyl 2-nitro-5-(1,2,4,5,6,7-hexahydro-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate | [N+](=O)([O-])C1=C(C(=O)OCC)C=C(C=C1)N1C(NC2=C(C1=O)CCC2)=O | C16H15N3O6
